US07700637B2
Lithium aluminum hydride (15.5 mL of a 1.0 M solution in THF) is added slowly to a cooled (ice-water bath) solution of the title B compound, 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzoic acid methyl ester (2.0 g, 6.18 mmol) in THF (30 mL). The mixture is stirred at 0° C. for 3 h, then quenched with saturated sodium bicarbonate, and extracted with EtOAc. The organic solution is washed with brine, dried over magnesium sulfate, and concentrated under vacuum to give the crude product. The product is purified by silica gel chromatography using 30% EtOAc in hexane as the eluent to give [4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-methanol as a white solid.

reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzoic acid methyl ester | 6.18 mmol, 2.0 g | COC(C1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)=O | C19H17NO4
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-methanol | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CO | C18H17NO3
